US07816522B2
(3b) 2-fluoro-5-methoxy-3-triisopropylsilanyloxybenzaldehyde
To a 240 ml THF solution containing 113 g of (2-fluoro-5-methoxyphenoxy)triisopropylsilane and 70 g of N,N,N′,N′,N″-pentamethyldiethylenetriamine there was added dropwise 150 ml of n-butyllithium (2.66 M, hexane solution) over a period of 50 minutes, at −74° C. After stirring for 3 hours at −60° C., 70 ml of N-formylmorpholine was added. The temperature of the reaction mixture was slowly allowed to rise to 6° C. Next, 1N hydrochloric acid was added to the reaction mixture while cooling on ice, and then the mixture was extracted with a mixture of hexane and t-butylmethyl ether and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (t-butyl methyl ether-heptane) to give the title compound (113.26 g) as an oil.

reactant | (2-fluoro-5-methoxyphenoxy)triisopropylsilane | 113 g | FC1=C(O[Si](C(C)C)(C(C)C)C(C)C)C=C(C=C1)OC | C16H27FO2Si
reactant | N,N,N′,N′,N″-pentamethyldiethylenetriamine | 70 g | CN(C)CCN(C)CCN(C)C | C9H23N3
reactant | n-butyllithium | 2.66 M, 150 ml | C(CCC)[Li]
reactant | N-formylmorpholine | 70 ml | C(=O)N1CCOCC1 | C5H9NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 240 ml | C1CCOC1 | C4H8O
product | 2-fluoro-5-methoxy-3-triisopropylsilanyloxybenzaldehyde | 113.26 g | FC1=C(C=O)C=C(C=C1O[Si](C(C)C)(C(C)C)C(C)C)OC | C17H27FO3Si
